US05719319
277.7 g (1 mole) of a technical 40% by weight aqueous sodium sarcosinate solution were used. A pH value of 9.6 (at 20° C.) was adjusted with concentrated hydrochloric acid and heated to 95° C. Subsequently, 105.1 g (1.25 mole) of a technical 50% by weight aqueous cyanamide solution were added thereto with intensive stirring in such a manner that the internal temperature did not exceed 95° C. After ending of the cyanamide addition, further heating was carried out for 1 hour at 95° C. The reaction mixture was then cooled to 15° C. the crystalline precipitate was filtered off with suction and washed chloride-free by washing twice with, in each case, 120 ml of water. The residue was recrystallized from water and dried at 80° C. and 20 mbar. The yield of creatine was 73.4 g (56% of theory). The content determination by means of HPLC gave a content of 100% (creatine monohydrate obtainable pure in chemical commerce was used as standard).

reactant | sodium sarcosinate | N(C)CC(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | cyanamide | N#CN | CH2N2
product | creatine monohydrate | O.O=C(O)CN(C)C(N)=N | InChI=1S/C4H9N3O2.H2O/c1-7(4(5)6)2-3(8)9;/h2H2,1H3,(H3,5,6)(H,8,9);1H2
